US07915271B2
Step B Methyl 2′,4′-difluoro-5′-iodo-2-methylbiphenyl-4-carboxylate
methyl 5′-amino-2′,4′-difluoro-2-methylbiphenyl-4-carboxylate (500 mg, 1.80 mmol), 3-methylbutyl nitrite (317 mg, 2.71 mmol), iodine (549 mg, 2.16 mmol) and chloroform (15 ml) were refluxed in an oil bath for 5 hours then allowed to cooled to ambient overnight. Reaction crude was purified by flash chromatography (SiO2, Biotage 40+M cartridge) eluted with a EtOAc/hexanes gradient mixture. Related fractions were pooled and concentrated in vacuo to afford the title compound. LCMS (ESI) calc.=387.98; found=388.92 (M+1)+.

reactant | methyl 5′-amino-2′,4′-difluoro-2-methylbiphenyl-4-carboxylate | 1.80 mmol, 500 mg | NC=1C(=CC(=C(C1)C1=C(C=C(C=C1)C(=O)OC)C)F)F | C15H13F2NO2
reactant | 3-methylbutyl nitrite | 2.71 mmol, 317 mg | N(=O)OCCC(C)C | C5H11NO2
reactant | iodine | 2.16 mmol, 549 mg | II | I2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2′,4′-difluoro-5′-iodo-2-methylbiphenyl-4-carboxylate | FC1=C(C=C(C(=C1)F)I)C1=C(C=C(C=C1)C(=O)OC)C | C15H11F2IO2
